US08012976B2
Ethyl 2-(4-((dimethylamino)methyl)phenyl)-4-oxo-3-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of (E)-4-(4-((dimethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one (541 mg, 1.84 mmol) and 4-(trifluoromethyl)benzaldehyde (320 mg, 1.84 mmol) in anhydrous ethyl propionate (25 mL) was cooled to 0° C. Then sodium ethoxide in methanol solution (sodium (127 mg, 5.51 mmol) in anhydrous ethanol (10 mL)) was added dropwise and the mixture was stirred at 25° C. for 4 hr. The resulting mixture was quenched with water (5 mL), and then evaporated the solvents off under reduced pressure. The residue was extracted with ethyl acetate (100 mL×3) and the combined organic layers were dried over anhydrous sodium sulfate and concentrated to give crude product, which was purified by column chromatography (silica gel, dichloromethane to dichloromethane/methanol=30:1) to give the title compound (150 mg, yield 16%) as a yellow solid. LC-MS (ESI) m/z: 497 (M+1)+.

reactant | (E)-4-(4-((dimethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one | 1.84 mmol, 541 mg | CN(C)CC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C18H18N2O2
reactant | 4-(trifluoromethyl)benzaldehyde | 1.84 mmol, 320 mg | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | methanol | 5.51 mmol, 10 mL, 127 mg | CO | CH4O
solvent | ethyl propionate | 25 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-((dimethylamino)methyl)phenyl)-4-oxo-3-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 150 mg, yield 16% | CN(C)CC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C28H27F3N2O3
